US08470819B2
Step A: Preparation of 3-nitro-4-{[4-(trifluoromethoxy)phenyl]amino}benzonitrile (i-1a)
A solution of 4-fluoro-3-nitrobenzonitrile (500 mg, 3.01 mmol), 4-trifluoromethoxyaniline (404 μL, 3.01 mmol) and potassium carbonate (416 mg, 3.01 mmol) in DMSO (15.0 mL) were heated in a sealed tube within a microwave reactor at 120° C. for 10 min. The reaction mixture was cooled to rt and partitioned between EtOAc and water. The organic layer was washed with water and brine, dried (sodium sulfate) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0%-40% EtOAc/hexanes as eluent) afforded the title compound i-1a. m/z (ES) 324 (MH)+. 1H NMR (500 MHz, CDCl3): δ 9.81 (s, 1H), 8.60 (d, 1H, J=1.9 Hz), 7.58 (dd, 1H, J=1.8, 9.1 Hz), 7.29 (m, 4H), 7.16 (d, 1H, J=8.9 Hz).

reactant | 4-fluoro-3-nitrobenzonitrile | 3.01 mmol, 500 mg | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 4-trifluoromethoxyaniline | 3.01 mmol, 404 μL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | potassium carbonate | 3.01 mmol, 416 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 15.0 mL | CS(=O)C | C2H6OS
product | 3-nitro-4-{[4-(trifluoromethoxy)phenyl]amino}benzonitrile | [N+](=O)([O-])C=1C=C(C#N)C=CC1NC1=CC=C(C=C1)OC(F)(F)F | C14H8F3N3O3
